US06022906
6b 1-[4-(3-Mercaptopropylthio)phenyl]-2-dimethylamino-2-methylpent-4-en-1-one
25.0 g (0.23 mol) of 1,3-propandithiol are dissolved in 80 ml of dry dimethylacetamide and 6.0 g of potassium carbonate are added. 10.0 g of 1-(4-fluorophenyl)-2-dimethylamino-2-methylpent-4-en-1-one in 20 ml of dry dimethylacetamide are added dropwise. The suspension is stirred at 50° C. for 12 h, the solid is filtered off. The excess 1,3-propanedithiol and dimethylacetamide are distilled off. To the residue toluene is added and the precipitate is filtered off. After toluene is distilled off, the residue is purified by column chromatography on silica gel with ethyl acetate-hexane (1:10) as eluent and an oily product is obtained. The structure is confirmed by the 1H-NMR-spectrum, measured in CDCl3. The signals (δ in ppm) are 1.18 (s,3H), 1.39 (t,1H), 2.00 (m,2H), 2.27 (s,5H), 2.42 (m, 1H), 2.66-2.72 (m,3H), 3.12 (t,2H), 4.83-4.93 (m,2H), 5.52 (m, 1H), 7.26 (d,2H), 8.38 (d,2H).

reactant | 1,3-propandithiol | 0.23 mol, 25.0 g | C(CCS)S | C3H8S2
reactant | potassium carbonate | 6.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(4-fluorophenyl)-2-dimethylamino-2-methylpent-4-en-1-one | 10.0 g | FC1=CC=C(C=C1)C(C(CC=C)(C)N(C)C)=O | C14H18FNO
solvent | dimethylacetamide | 80 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 20 ml | CC(=O)N(C)C | C4H9NO
product | 1-[4-(3-Mercaptopropylthio)phenyl]-2-dimethylamino-2-methylpent-4-en-1-one | SCCCSC1=CC=C(C=C1)C(C(CC=C)(C)N(C)C)=O | C17H25NOS2
